US05739351
0.54 g of carbonyldiimidazole is added to a solution of 0.8 g of 2-benzyloxyphenylacetic acid in 10 cm3 of dichloromethane, cooled to 0° C. The mixture is stirred at this temperature for 2 hours and then 0.8 g of (3aRS,4RS,6SR,7aSR)-6-hydroxymethyl-4-(2-fluorophenyl)perhydroisoindol-4-ol hydrochloride and 1.04 cm3 of diisopropylethylamine are added. The reaction mixture is stirred at room temperature for 18 hours, and then the organic phase is washed with 10 cm3 of water, then with 10 cm3 of saturated aqueous sodium chloride solution, dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a silica gel column (particle size 0.04-0.06 mm, diameter 3.2 cm, height 20 cm), eluting under a pressure of 0.5 bar of nitrogen with ethyl acetate and collecting fractions of 25 cm3. Fractions 18 to 50 are combined and then concentrated to dryness under reduced pressure (2.7 kPa). 0.72 g of (3aRS,4RS,6SR,7aSR)-6-hydroxymethyl-4-(2-fluorophenyl)-2-(benzyloxyphenylacetyl)perhydroisoindol-4-ol is obtained in the form of a thick white foam.

reactant | carbonyldiimidazole | 0.54 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-benzyloxyphenylacetic acid | 0.8 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CC(=O)O | C15H14O3
reactant | (3aRS,4RS,6SR,7aSR)-6-hydroxymethyl-4-(2-fluorophenyl)perhydroisoindol-4-ol hydrochloride | 0.8 g | Cl.OCC1CC(C2CNCC2C1)(O)C1=C(C=CC=C1)F
reactant | diisopropylethylamine | 1.04 cm3 | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 10 cm3 | ClCCl | CH2Cl2
product | (3aRS,4RS,6SR,7aSR)-6-hydroxymethyl-4-(2-fluorophenyl)-2-(benzyloxyphenylacetyl)perhydroisoindol-4-ol | 0.72 g | OCC1CC(C2CN(CC2C1)C(C(C1=CC=CC=C1)OCC1=CC=CC=C1)=O)(O)C1=C(C=CC=C1)F | C30H32FNO4
